US09163003B2
{(R)-3-[4-(4-Methoxy-3-methyl-benzoyl)-piperidin-1-yl]-2-oxo-pyrrolidin-1-yl}-acetonitrile
To a solution of (R)-3-[4-(4-methoxy-3-methyl-benzoyl)-piperidin-1-yl]-pyrrolidin-2-one (6.32 mmol, 2.0 g) and chloroacetonitrile (6.32 mmol, 0.48 g) in THF (50 mL) was added sodium hydride (60%, 9.48 mmol, 0.38 g) and heated to 70° C. for 30 min. The reaction was allowed to cool to ambient temperature and dried under vacuum. Flash column chromatography (silica) was performed eluting with ethyl acetate to 20% MeOH/ethyl acetate and provided the title compound as an off-white residue (1.1 g, 49% yield). Calculated molecular formula=C20H25N3O3=355.4406. found MS (ESI) m/e 356.1978 (M+H+); analytical RP-HPLC (Novapak 150×3.9 mm C18 column: mobile phase: 10-90% acetonitrile/water with 0.1% TFA, at 2 mL/min over 5 min.) retention time=2.591 min.

reactant | (R)-3-[4-(4-methoxy-3-methyl-benzoyl)-piperidin-1-yl]-pyrrolidin-2-one | 6.32 mmol, 2.0 g | COC1=C(C=C(C(=O)C2CCN(CC2)[C@H]2C(NCC2)=O)C=C1)C | C18H24N2O3
reactant | chloroacetonitrile | 6.32 mmol, 0.48 g | ClCC#N | C2H2ClN
reactant | sodium hydride | 9.48 mmol, 0.38 g | [H-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | {(R)-3-[4-(4-Methoxy-3-methyl-benzoyl)-piperidin-1-yl]-2-oxo-pyrrolidin-1-yl}-acetonitrile | COC1=C(C=C(C(=O)C2CCN(CC2)[C@H]2C(N(CC2)CC#N)=O)C=C1)C | C20H25N3O3
